US06177440B1
C. 9-[(Cyclopentyl)methyl]-4-hydroxy-5-carbamoyl carbazole
A solution of 9-[(cyclopentyl)methyl]-4-hydroxy-5-carbomethoxy carbazole (110 mg, 0.34 mmol) in 3 mL of THF and 20 mL of concentrated aqueous ammonium hydroxide was treated with a stream of NH3 gas to ensure saturation. The reaction vessel was capped, and the mixture heated to 35° C. with stirring until tlc indicated complete consumption of starting material (20 h). The THF was evaporated, and the aqueous layer was filtered. The resultant solid was triturated with ether to afford 50 mg (0.162; 48%) of the title compound as a greenish-white solid. IR (KBr, cm−1) 3416, 3199, 3126, 1630, 1599. 1442, 1262, 778. FAB HRMS m/e, Calcd for C20H21N2O2: 309.1603. Found: 309.1607 (M+1).’

reactant | 9-[(cyclopentyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 0.34 mmol, 110 mg | C1(CCCC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C20H21NO3
reactant | NH3 | N | H3N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ammonium hydroxide | 20 mL | [OH-].[NH4+]
product | 9-[(Cyclopentyl)methyl]-4-hydroxy-5-carbamoyl carbazole | C1(CCCC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C19H20N2O2
